US08247569B2
4-(3-Cyclohexyl-5-phenyl-1H-pyrazol-1-yl)-2-(hydroxymethyl)benzenesulfonamide
To a suspension of 4-hydrazinyl-2-(hydroxymethyl)benzenesulfonamide (224 mg, 0.884 mmol) in ethanol (4.0 mL), triethylamine (246 μL, 1.77 mmol) and 1-cyclohexyl-3-phenylpropan-1,3-dione (185 mg, 0.803 mmol) were added, and the obtained solution was stirred at 100° C. for 72 hours. Water was added to the reaction solution, and the resulting solution was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by flash chromatography (silica gel, n-hexane/chloroform/acetone) to obtain the title compound (51.5 mg, 0.125 mmol, 16%) as a white amorphous product.

reactant | 4-hydrazinyl-2-(hydroxymethyl)benzenesulfonamide | 0.884 mmol, 224 mg | N(N)C1=CC(=C(C=C1)S(=O)(=O)N)CO | C7H11N3O3S
reactant | triethylamine | 1.77 mmol, 246 μL | C(C)N(CC)CC | C6H15N
reactant | 1-cyclohexyl-3-phenylpropan-1,3-dione | 0.803 mmol, 185 mg | C1(CCCCC1)C(CC(=O)C1=CC=CC=C1)=O | C15H18O2
reactant | Water | O | H2O
solvent | ethanol | 4.0 mL | C(C)O | C2H6O
product | 4-(3-Cyclohexyl-5-phenyl-1H-pyrazol-1-yl)-2-(hydroxymethyl)benzenesulfonamide | 0.125 mmol, 51.5 mg, 16% | C1(CCCCC1)C1=NN(C(=C1)C1=CC=CC=C1)C1=CC(=C(C=C1)S(=O)(=O)N)CO | C22H25N3O3S
